US08754079B2
IV.2. trans-4-(5-Fluoro-2-nitro-phenoxy)-cyclohexylamine hydrochloride
10 ml of a solution of HCl in dioxane (4 M) were added to 1.19 g trans-[4-(5-fluoro-2-nitro-phenoxy)-cyclohexyl]-carbamic acid tert-butyl ester in methylene chloride. The mixture is stirred for 3 hours and 2 ml of HCl in dioxane (4 M) were added. The reaction mixture was stirred for 1 hour and concentrated in vacuo.

reactant | HCl | Cl | ClH
reactant | trans-[4-(5-fluoro-2-nitro-phenoxy)-cyclohexyl]-carbamic acid tert-butyl ester | 1.19 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C17H23FN2O5
reactant | HCl | 2 ml | Cl | ClH
solvent | dioxane | 4 M | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4 M | O1CCOCC1 | C4H8O2
product | trans-4-(5-Fluoro-2-nitro-phenoxy)-cyclohexylamine hydrochloride | Cl.FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)N)C1)[N+](=O)[O-] | InChI=1S/C12H15FN2O3.ClH/c13-8-1-6-11(15(16)17)12(7-8)18-10-4-2-9(14)3-5-10;/h1,6-7,9-10H,2-5,14H2;1H/t9-,10-;
